US08609660B2
Dess-Martin periodinane (3.04 g, 7.16 mmol) was added portionwise over 5 minutes to a solution of rac-[1-(3-bromo-phenyl)-2-hydroxy-1-methyl-but-3-ynyl]-carbamic acid tert-butyl ester (2.12 g, 5.97 mmol) in dry DCM (20 mL) at 0° C. The mixture was stirred at 0° C. for 10 minutes and at room temperature for 1 hour. The reaction mixture was quenched with NaHCO3 (aq. sat. solution) followed by NaHSO3 (aqueous sat. soltn.). Then Et2O was added and the mixture was stirred at room temperature for 30 minutes. The organic layer was separated and the aqueous layer was further extracted with Et2O. The combined organic layers were separated, dried (MgSO4), filtered and the solvents evaporated in vacuo. The crude product was purified by flash column chromatography (silica gel; DCM). The desired fractions were collected and concentrated in vacuo to yield rac-[1-(3-bromo-phenyl)-1-methyl-2-oxo-but-3-ynyl]-carbamic acid tert-butyl ester (1.89 g, 90% yield) as an oil.

reactant | Dess-Martin periodinane | 7.16 mmol, 3.04 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | rac-[1-(3-bromo-phenyl)-2-hydroxy-1-methyl-but-3-ynyl]-carbamic acid tert-butyl ester | 5.97 mmol, 2.12 g | C(C)(C)(C)OC(NC(C(C#C)O)(C)C1=CC(=CC=C1)Br)=O | C16H20BrNO3
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | rac-[1-(3-bromo-phenyl)-1-methyl-2-oxo-but-3-ynyl]-carbamic acid tert-butyl ester | 1.89 g, 90% yield | C(C)(C)(C)OC(NC(C(C#C)=O)(C)C1=CC(=CC=C1)Br)=O | C16H18BrNO3
